US07750003B2
1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-[(2-oxopyrrolidin-3-yl)sulfanylmethyl]pyrimidin-2-yl]phenyl]-3-phenyl-urea
1-[4-[4-(Carbamimidoylsulfanylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-phenyl-urea (125 mg) was dissolved in DMF (3 mL). The solution was then treated with 3-bromo-pyrrolidin-2-one (48 mg) followed by sodium hydroxide (42 mg) in water (1 mL), heated to 40° C. and left to stir for 24 h. The reaction was diluted in a little methanol and loaded onto a SCX-2 column (20 g), which was washed with methanol and the desired product eluted with 7N ammonia in methanol to give the desired material which was used without further characterisation.

reactant | 1-[4-[4-(Carbamimidoylsulfanylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-phenyl-urea | 125 mg | C(N)(=N)SCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H27N7O2S
reactant | 3-bromo-pyrrolidin-2-one | 48 mg | BrC1C(NCC1)=O | C4H6BrNO
reactant | sodium hydroxide | 42 mg | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
product | 1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-[(2-oxopyrrolidin-3-yl)sulfanylmethyl]pyrimidin-2-yl]phenyl]-3-phenyl-urea | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CSC1C(NCC1)=O)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C27H30N6O3S
